US07728010B2
1. Synthesis of 2-Fluoro-3-(4-methyl-piperazin-1-yl)-6-nitro-phenylamine
A solution of N-methylpiperazine (1.0 eq), NMP, triethylamine (3.0 eq) and 5,6-difluoro-2-nitroaniline (1.0 eq) were heated at 90° C. for 1 hour. The reaction was allowed to cool to room temperature and then poured into water and let stand for 1 hour. The resulting solid was collected and dried and utilized without further purification. MH+=255.3

reactant | N-methylpiperazine | 1.0 eq | CN1CCNCC1 | C5H12N2
reactant | NMP | CN1CCCC1=O | C5H9NO
reactant | triethylamine | 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | 5,6-difluoro-2-nitroaniline | 1.0 eq | FC=1C=CC(=C(N)C1F)[N+](=O)[O-] | C6H4F2N2O2
solvent | water | O | H2O
product | 2-Fluoro-3-(4-methyl-piperazin-1-yl)-6-nitro-phenylamine | FC1=C(C(=CC=C1N1CCN(CC1)C)[N+](=O)[O-])N | C11H15FN4O2
